US08426420B2
i) piperazine-1,4-dicarboxylic acid tert-butyl ester phenyl ester
To a solution of 1.0 g tert-butyl 1-piperazinecarboxylate and 1.5 ml triethylamine in 5 ml dichloromethane were added at 0° C. 0.8 ml phenylchloroformate. After stirring for 12 h, 2 ml of water were added and the mixture loaded on a chem Elute® cartridge. Elution with dichloromethane yielded the crude product which was used in the subsequent reaction.

reactant | tert-butyl 1-piperazinecarboxylate | 1.0 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | phenylchloroformate | 0.8 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
reactant | water | 2 ml | O | H2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | piperazine-1,4-dicarboxylic acid tert-butyl ester phenyl ester | C1(=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C16H22N2O4
